US08461134B2
2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid
To a stirred solution of methyl 2-(2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate (134 mg, 0.28 mmol) in 2 mL of MeOH and water (1:1, v/v) was added NaOH (34 mg, 0.85 mmol). The reaction mixture was stirred at room temperature for 16 hours. After MeOH was removed in vacuo, the residue was dissolved in water and acidified with 0.5N HCl. The mixture was extracted with ethyl acetate three times, and washed with water and brine. The organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as an off-white solid (51 mg, yield 50%). MS calcd for (C15H15BN2O6S): 362.1. MS found (ESI negative): (M−H)−=361.1. 1H NMR (DMSO-d6) δ (ppm): 9.78 (s, 1H), 9.10 (bs, 1H), 7.41 (d, J=8.4 Hz, 1H), 7.35 (s, 1H), 7.14 (d, J=8.4 Hz, 1H), 7.04 (d, J=8.0 Hz, 1H), 6.34 (s, 1H), 6.32 (d, J=8.8 Hz, 1H), 4.79 (s, 2H), 3.73 (s, 2H).

reactant | methyl 2-(2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate | 0.28 mmol, 134 mg | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=C(C=C(C=C2)NC(C(F)(F)F)=O)CC(=O)OC | C18H16BF3N2O7S
reactant | NaOH | 0.85 mmol, 34 mg | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | O | H2O
product | 2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 51 mg, yield 50% | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
